* Test AC mode support for the FIND-WHEN and WHEN measures.
* To be conservative, there are subtests for each
* valid operator (V, VR, VI, VP, VM and VDB) for
* each measure type.  One current operator (IM) is tested
* for a branch current for the FIND measure.
*
* See SON Bug 1270 for more details.
*****************************************************

* trivial high-pass filter (V-C-R) circuit

R2 c 0 1
R1 b c 1
C1 a b 1u
V1 a 0 DC 0V AC 1

.print AC vr(b) vi(b) vm(b) vp(b) vdb(b)
+ vr(c) vi(c) vm(c) vp(c) vdb(c) im(v1)
.ac dec 5 100Hz 1e6

* WHEN
.MEASURE AC whenvmb0.5 WHEN vm(b)= 0.5
.MEASURE AC whenvrb0.5 WHEN vr(b)= 0.5
.MEASURE AC whenvib0.1 WHEN vi(b)= 0.1
.MEASURE AC whenvbp50 WHEN vp(b)= 50
.MEASURE AC whenimv10.25 WHEN im(v1) = 0.25

* FIND-WHEN
.MEASURE AC findvmcwhenvmb0.5 find vm(c) when vm(b)= 0.5
.MEASURE AC findvrcwhenvrb0.5 find vr(c) when vr(b)= 0.5
.MEASURE AC findvicwhenvib0.1 find vi(c) when vi(b)= 0.1
.MEASURE AC findvpcwhenvpb50 find vp(c) when vp(b)= 50.0

* Expressions with WHEN measure
.MEASURE AC whenExp1 when vr(b)=vi(b)
.MEASURE AC whenExp2 when {vm(b)+0.1}=0.5
.MEASURE AC whenExp3 when vm(b)={0.3+0.2}
.MEASURE AC whenExp4 when vr(b)={vi(b)+0.3}

* Expressions, with FIND-WHEN measure
.MEASURE AC findvmcwhenvmbExp1 find vm(c) when {vm(b)+0.1}=0.5
.MEASURE AC findvmcwhenvmbExp2 find vm(c) when vm(b)={0.3+0.2}
.MEASURE AC findvmcwhenvmbExp3 find {vm(c)+1} when {vm(b)+0.1}=0.5
.MEASURE AC findvmcwhenvmbExp4 find {vm(c)+1} when vm(b)={0.3+0.2}
.MEASURE AC findvrcwhenvmbExp5 find vr(c) when vr(b)=vi(b)

* Use of other measures in WHEN and FIND-WHEN
.MEASURE AC eqnvmc EQN {vm(c)}
.MEASURE AC wheneqnvmc when EQNVMC=0.1
.MEASURE AC findwheneqnvmc find eqnvmc when vm(b)=0.5

* measures should fail
.measure ac FAIL1 WHEN vm(b)=2
.measure ac FAIL2 FIND vm(c) WHEN vm(b)=2

* Tests should return -1 or -100, since the FROM-T0 window
* has various problems.
.measure ac whenReturnNegOne WHEN vm(b)=0.5 FROM=1e7 TO=1e8
.measure ac findWhenReturnNeg100 FIND vm(c) WHEN vm(b)=0.5 FROM=1e6 TO=1e2 DEFAULT_VAL=-100

.END
